US05519138
2-n-Propyl-6-(1-methyl-benzimidazol-2-yl)-4-methyl-1-[4-[(α-carboxy)benzyloxy]benzyl]benzimidazole
Prepared analogously to Example 1b from 2-n-propyl-6-(1-methyl-benzimidazol-2-yl)-4-methyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]benzimidazole and 1N sodium hydroxide solution in ethanol.

reactant | 2-n-propyl-6-(1-methyl-benzimidazol-2-yl)-4-methyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]benzyl]benzimidazole | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)OCC)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C36H36N4O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Propyl-6-(1-methyl-benzimidazol-2-yl)-4-methyl-1-[4-[(α-carboxy)benzyloxy]benzyl]benzimidazole | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)O)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C34H32N4O3
